US05081121
4-Methoxy-2-methylaniline (3.0 g) and diethyl ethoxymethylenemalonate (5.7 g) were reacted in the same manner as in Experimental Example 1 to obtain 3-ethoxycarbonyl-6-methoxy-8-methyl-4(1H)-quinolone (3.4 g). The compound (2.0 g) was subjected to hydrolysis and decarboxylation in the same manner as in Experimental Example 2 to obtain 6-methoxy-8-methyl-4(1H)-quinolone (compound 20, 0.7 g).

reactant | 4-Methoxy-2-methylaniline | 3.0 g | COC1=CC(=C(N)C=C1)C | C8H11NO
reactant | diethyl ethoxymethylenemalonate | 5.7 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | 3-ethoxycarbonyl-6-methoxy-8-methyl-4(1H)-quinolone | 3.4 g | C(C)OC(=O)C1=CNC2=C(C=C(C=C2C1=O)OC)C | C14H15NO4
